US05780692
(S,S)-2,4-Bis(diphenylphosphino)pentane (SKEWPHOS).
Among these transition metal complexes, preferable ones include [Ru2 Cl4 (DM-BINAP)2 ]NEt3, [Ru2Cl4(OcH-BINAP)2 ]NEt3, [Ru2Cl4 (OcH-DM-BINAP)2 ]NEt3, [RuI(p-cymene)(DM-BINAP)]I, [RuCl(p-cymene)(DM-BINAP)]Cl, [RuBr(p-cymene)(DM-BINAP)]Br, [RuI(benzene)(DM-BINAP)]I, [RuCl(benzene)(DM-BINAP)]Cl, [RuBr(benzene)(DM-BINAP)]Br, [RuI(p-cymene)(OcH-BINAP)]I, [RuCl(p-cymene)(OcH-BINAP)]Cl, [RuBr(p-cymene)(OcH-BINAP)]Br, [RuI(benzene)(OcH-BINAP)]I, [RuCl(benzene)(OcH-BINAP)]Cl, [RuBr(benzene)(OcH-BINAP)]Br, [RuI(p-cymene)(OcH-DM-BINAP)]I, [RuCl(p-cymene)(OcH-DM-BINAP)]Cl, [RuBr(p-cymene)(OcH-DM-BINAP)]Br, [RuI(benzene)(OcH-DM-BINAP)]I, [RuCl(benzene)(OcH-DM-BINAP)]Cl and [RuBr(benzene)(OcH-DM-BINAP)]Br, and still preferable ones include [RU2Cl4 (DM-BINAP )2 ]NEt3, [Ru2Cl4 (OcH-BINAP)2 ]NEt3 and [Ru2 Cl4 (OcH-DM-BINAP)2 ]NEt3.

reactant | DM-BINAP | CC1=CC(=CC(=C1)P(C2=C(C3=CC=CC=C3C=C2)C4=C(C=CC5=CC=CC=C54)P(C6=CC(=CC(=C6)C)C)C7=CC(=CC(=C7)C)C)C8=CC(=CC(=C8)C)C)C | C52H48P2
solvent | NEt3 | CCN(CC)CC | C6H15N
product | (S,S)-2,4-Bis(diphenylphosphino)pentane | C1(=CC=CC=C1)P([C@@H](C)C[C@H](C)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H30P2
